*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:54:25 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFSRHQX8"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFSRHQX8 RN D Q CK SE SN SI
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET RN 2.30683e-16
*|P (RN X 0 2.7000 0.8550)
*|I (Mmn22:g Mmn22 g X 0 2.7825 0.5125)
*|I (Mmp22:g Mmp22 g X 0 2.7825 1.0875)
*|S (RN:2 2.8200 0.8200)
C1 Mmp22:g VSS 3.88914e-17
C2 Mmn22:g VSS 4.45976e-17
C3 RN:2 VSS 7.91219e-17
C4 RN VSS 6.80718e-17
Rl1 RN:2 Mmn22:g 76.155907 $W=0.039
Rl2 Mmp22:g RN:2 47.309750 $W=0.039
Rk3 RN:2 RN 45.075611 $W=0.1
*
*|NET D 3.38319e-16
*|P (D X 0 8.1000 0.8550)
*|I (Mmn11:g Mmn11 g X 0 8.2825 0.4200)
*|I (Mmp11:g Mmp11 g X 0 8.2825 1.1450)
*|S (D:2 8.2825 0.6775)
*|S (D:3 8.1100 0.6500)
C5 Mmp11:g VSS 9.29246e-17
C6 Mmn11:g VSS 4.68848e-17
C7 D:2 VSS 2.77513e-17
C8 D:3 VSS 1.12023e-16
C9 D VSS 5.87352e-17
Rl4 D:2 D:3 91.527115 $W=0.039
Rl5 D:2 Mmn11:g 47.310455 $W=0.039
Rl6 Mmp11:g D:2 103.079681 $W=0.039
Rk7 D D:3 0.123414 $W=0.1
*
*|NET Q 5.05675e-16
*|P (Q X 0 0.1000 0.6650)
C10 Q VSS 5.05675e-16
*
*|NET CK 2.29291e-16
*|P (CK X 0 7.7000 0.6650)
*|I (Mmn20:g Mmn20 g X 0 7.9575 0.4775)
*|I (Mmp20:g Mmp20 g X 0 7.9875 1.0575)
*|S (CK:2 7.9300 0.6850)
*|S (CK:4 7.9300 0.6850)
C11 Mmp20:g VSS 3.23185e-17
C12 Mmn20:g VSS 2.87783e-17
C13 CK:2 VSS 1.23364e-16
C14 CK VSS 4.48297e-17
Rl8 CK:2 Mmn20:g 39.153313 $W=0.039
Rl9 Mmp20:g CK:2 90.923370 $W=0.039
Rk10 CK CK:4 0.141508 $W=0.1
Rk11 CK:2 CK:4 45.000000 $W=0.1
*
*|NET SE 6.06609e-16
*|P (SE X 0 9.3000 0.6650)
*|I (Mmn14:g Mmn14 g X 0 8.7725 0.3950)
*|I (Mmn10:g Mmn10 g X 0 9.2625 0.4525)
*|I (Mmp12:g Mmp12 g X 0 8.3875 1.1450)
*|I (Mmp10:g Mmp10 g X 0 8.9675 1.2325)
*|S (SE:2 8.4300 0.8200)
*|S (SE:4 8.7250 0.6300)
*|S (SE:6 9.2900 0.6600)
*|S (SE:8 9.2900 0.6600)
C15 Mmp10:g VSS 7.42446e-17
C16 Mmp12:g VSS 7.60147e-17
C17 Mmn10:g VSS 2.66632e-17
C18 Mmn14:g VSS 6.77048e-17
C19 SE:2 VSS 1.14914e-16
C20 SE:4 VSS 1.27087e-16
C21 SE:6 VSS 1.19981e-16
Rl12 Mmn14:g SE:4 76.380745 $W=0.039
Rl13 Mmn10:g SE:6 39.153313 $W=0.039
Rl14 Mmp12:g SE:2 78.790321 $W=0.039
Rl15 SE:6 Mmp10:g 261.795868 $W=0.039
Rk16 SE:4 SE:2 0.346084 $W=0.08
Rk17 SE SE:8 0.005081 $W=0.13
Rk18 SE:6 SE:8 45.000000 $W=0.08
Rk19 SE:8 SE:4 0.419385 $W=0.08
*
*|NET SN 9.80565e-16
*|P (SN X 0 3.1000 0.8550)
*|I (Mmn50:g Mmn50 g X 0 3.0825 0.4975)
*|I (Mmn30:g Mmn30 g X 0 6.0825 0.4075)
*|I (Mmp50:g Mmp50 g X 0 3.0825 1.1350)
*|I (Mmp30:g Mmp30 g X 0 5.9775 1.0550)
*|S (SN:2 3.1200 0.8800)
*|S (SN:6 5.9400 1.3100)
*|S (SN:7 3.1200 0.8800)
C22 Mmp30:g VSS 6.6592e-17
C23 Mmp50:g VSS 5.04756e-17
C24 Mmn30:g VSS 6.225e-17
C25 Mmn50:g VSS 3.77502e-17
C26 SN:2 VSS 3.57283e-17
C27 SN:6 VSS 3.5267e-16
C28 SN VSS 3.751e-16
Rl20 SN:2 Mmn50:g 93.463593 $W=0.039
Rl21 Mmp50:g SN:2 24.232828 $W=0.039
Rl22 Mmp30:g SN:6 69.232826 $W=0.039
Rl23 Mmn30:g Mmp30:g 172.642563 $W=0.039
Rk24 SN:7 SN 0.012548 $W=0.12
Rk25 SN:6 SN:7 2.624449 $W=0.08
Rk26 SN:2 SN:7 45.000000 $W=0.08
*
*|NET SI 3.27371e-16
*|P (SI X 0 8.9000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 8.8775 0.3950)
*|I (Mmp13:g Mmp13 g X 0 8.7625 1.1450)
*|S (SI:2 8.8400 0.8500)
C29 Mmp13:g VSS 6.3964e-17
C30 Mmn13:g VSS 7.90275e-17
C31 SI:2 VSS 9.75333e-17
C32 SI VSS 8.68465e-17
Rl27 Mmn13:g SI:2 110.771286 $W=0.039
Rl28 SI:2 Mmp13:g 37.440861 $W=0.039
Rk29 SI:2 SI 45.019444 $W=0.2
*
*|NET qbint 1.05273e-15
*|I (Mmn55:g Mmn55 g X 0 0.2125 0.5125)
*|I (Mmn45@1:d Mmn45@1 d X 0 1.7500 0.4950)
*|I (Mmn52:g Mmn52 g X 0 3.3675 0.4975)
*|I (Mmp52:g Mmp52 g X 0 3.3675 1.1350)
*|S (qbint:23 2.6950 1.4650)
C33 Mmp52:g VSS 1.22868e-16
C34 Mmn52:g VSS 5.86858e-17
C35 Mmn45@1:d VSS 3.58928e-16
C36 Mmn55:g VSS 4.0204e-16
C37 qbint:23 VSS 1.10212e-16
Rl30 Mmp52:g qbint:23 359.897675 $W=0.039
Rl31 Mmp52:g Mmn52:g 146.153839 $W=0.039
Rk32 Mmn45@1:d qbint:23 0.595876 $W=0.09
Rk33 Mmn45@1:d Mmn55:g 45.167053 $W=0.09
*
*|NET n35 9.4284e-16
*|I (Mmn45@1:g Mmn45@1 g X 0 1.6475 0.4950)
*|I (Mmn53:d Mmn53 d X 0 4.2350 0.4525)
*|I (Mmp53:d Mmp53 d X 0 4.2650 1.0800)
*|S (n35:11 4.2500 0.8250)
C38 Mmp53:d VSS 7.8723e-17
C39 Mmn53:d VSS 6.20465e-17
C40 Mmn45@1:g VSS 4.77814e-16
C41 n35:11 VSS 3.24257e-16
Rk34 n35:11 Mmn45@1:g 47.207420 $W=0.08
Rk35 n35:11 Mmn53:d 75.263893 $W=0.08
Rk36 n35:11 Mmp53:d 31.198120 $W=0.08
*
*|NET RNb 8.42167e-16
*|I (Mmn22:d Mmn22 d X 0 2.6650 0.5125)
*|I (Mmn51:g Mmn51 g X 0 3.5725 0.4975)
*|I (Mmn31:g Mmn31 g X 0 5.6025 0.4075)
*|I (Mmp22:d Mmp22 d X 0 2.6900 1.0875)
*|I (Mmp51:g Mmp51 g X 0 3.4725 1.1350)
*|I (Mmp31:g Mmp31 g X 0 5.6025 1.0550)
*|S (RNb:2 3.5100 1.4300)
*|S (RNb:7 2.6800 1.1350)
C42 Mmp31:g VSS 1.65867e-16
C43 Mmp51:g VSS 7.14671e-17
C44 Mmp22:d VSS 1.80832e-16
C45 Mmn31:g VSS 5.25266e-17
C46 Mmn51:g VSS 6.50315e-17
C47 Mmn22:d VSS 1.09881e-16
C48 RNb:2 VSS 1.96562e-16
Rl37 RNb:2 Mmp51:g 39.617443 $W=0.039
Rl38 Mmp51:g Mmn51:g 166.873337 $W=0.039
Rl39 Mmp31:g RNb:2 873.616394 $W=0.039
Rl40 Mmp31:g Mmn31:g 150.000000 $W=0.039
Rk41 RNb:2 RNb:7 45.760727 $W=0.09
Rk42 RNb:7 Mmn22:d 75.731339 $W=0.08
Rk43 Mmp22:d RNb:7 62.000000 $W=0.09
*
*|NET net486 1.36671e-16
*|I (Mmn50:d Mmn50 d X 0 3.2250 0.4975)
*|I (Mmn51:s Mmn51 s X 0 3.6650 0.4975)
C49 Mmn51:s VSS 7.34225e-17
C50 Mmn50:d VSS 6.32489e-17
Rk44 Mmn51:s Mmn50:d 150.345291 $W=0.1
*
*|NET net490 1.81362e-16
*|I (Mmn52:d Mmn52 d X 0 3.4700 0.4975)
*|I (Mmn53:s Mmn53 s X 0 3.9525 0.4525)
C51 Mmn53:s VSS 9.92022e-17
C52 Mmn52:d VSS 8.21598e-17
Rk45 Mmn52:d Mmn53:s 150.360199 $W=0.1
*
*|NET CKb 1.72907e-15
*|I (Mmn53:g Mmn53 g X 0 4.0875 0.4525)
*|I (Mmn25:g Mmn25 g X 0 6.7875 0.4075)
*|I (Mmn21:g Mmn21 g X 0 7.3525 0.4625)
*|I (Mmn20:d Mmn20 d X 0 7.8650 0.4775)
*|I (Mmp40:g Mmp40 g X 0 4.3825 1.0800)
*|I (Mmp36:g Mmp36 g X 0 6.5975 1.1550)
*|I (Mmp21:g Mmp21 g X 0 7.4025 1.1525)
*|I (Mmp20:d Mmp20 d X 0 7.8950 1.0575)
*|S (CKb:2 4.0600 0.6650)
*|S (CKb:4 4.4100 0.8000)
*|S (CKb:6 7.4400 0.6600)
*|S (CKb:7 7.3525 0.6325)
*|S (CKb:8 6.7875 0.6325)
*|S (CKb:13 7.4400 1.0100)
*|S (CKb:14 7.4400 0.6600)
C53 Mmp20:d VSS 4.35443e-17
C54 Mmp21:g VSS 3.91989e-17
C55 Mmp36:g VSS 7.15662e-17
C56 Mmp40:g VSS 4.25917e-17
C57 Mmn20:d VSS 7.74269e-17
C58 Mmn21:g VSS 2.78328e-17
C59 Mmn25:g VSS 2.69105e-17
C60 Mmn53:g VSS 3.93939e-17
C61 CKb:13 VSS 4.15807e-16
C62 CKb:8 VSS 5.74135e-17
C63 CKb:7 VSS 2.43988e-17
C64 CKb:2 VSS 1.45752e-16
C65 CKb:4 VSS 6.18051e-16
C66 CKb:6 VSS 9.91843e-17
Rl46 CKb:6 CKb:7 15.350974 $W=0.039
Rl47 CKb:7 CKb:8 208.530411 $W=0.039
Rl48 Mmn53:g CKb:2 74.537926 $W=0.039
Rl49 CKb:8 Mmn25:g 45.387379 $W=0.039
Rl50 CKb:7 Mmn21:g 30.450726 $W=0.039
Rl51 Mmp40:g CKb:4 80.307159 $W=0.039
Rl52 CKb:8 Mmp36:g 194.953018 $W=0.039
Rl53 Mmp21:g CKb:6 133.848206 $W=0.039
Rk54 CKb:4 CKb:2 0.888257 $W=0.08
Rk55 CKb:13 CKb:4 3.358002 $W=0.08
Rk56 CKb:6 CKb:14 45.000000 $W=0.08
Rk57 CKb:13 CKb:14 0.273500 $W=0.0815
Rk58 CKb:14 Mmn20:d 75.454002 $W=0.08
Rk59 Mmp20:d CKb:13 62.288403 $W=0.09
*
*|NET mout 9.10439e-16
*|I (Mmn40:s Mmn40 s X 0 4.5475 0.4525)
*|I (Mmn31:d Mmn31 d X 0 5.7375 0.4075)
*|I (Mmn35:g Mmn35 g X 0 6.3575 0.4075)
*|I (Mmp40:s Mmp40 s X 0 4.5175 1.0800)
*|I (Mmp32:d Mmp32 d X 0 5.8425 1.0550)
*|I (Mmp35:g Mmp35 g X 0 6.3575 1.1550)
*|S (mout:2 6.3200 0.8900)
*|S (mout:5 4.6300 0.4950)
*|S (mout:6 4.6300 0.8450)
*|S (mout:10 5.8100 0.9600)
C67 Mmp35:g VSS 4.43525e-17
C68 Mmp32:d VSS 2.07383e-16
C69 Mmp40:s VSS 4.34262e-17
C70 Mmn35:g VSS 5.79186e-17
C71 Mmn31:d VSS 1.41815e-16
C72 Mmn40:s VSS 1.23595e-16
C73 mout:6 VSS 1.57353e-16
C74 mout:2 VSS 1.34596e-16
Rl60 mout:2 Mmn35:g 131.925140 $W=0.039
Rl61 Mmp35:g mout:2 28.078981 $W=0.039
Rk62 mout:5 mout:6 0.254533 $W=0.08
Rk63 mout:10 mout:2 45.405243 $W=0.08
Rk64 mout:6 mout:10 1.001101 $W=0.08
Rk65 Mmn40:s mout:5 75.000000 $W=0.1225
Rk66 mout:5 Mmn31:d 75.834572 $W=0.08
Rk67 mout:6 Mmp40:s 62.151661 $W=0.06
Rk68 Mmp32:d mout:10 62.000000 $W=0.08
*
*|NET CKbb 1.23629e-15
*|I (Mmn40:g Mmn40 g X 0 4.3825 0.4525)
*|I (Mmn36:g Mmn36 g X 0 6.5025 0.4075)
*|I (Mmn21:d Mmn21 d X 0 7.2600 0.4625)
*|I (Mmp53:g Mmp53 g X 0 4.1475 1.0800)
*|I (Mmp25:g Mmp25 g X 0 6.9475 1.1300)
*|I (Mmp21:d Mmp21 d X 0 7.3000 1.1525)
*|S (CKbb:2 4.3825 0.6575)
*|S (CKbb:4 4.8200 0.6850)
*|S (CKbb:6 6.5400 0.7300)
*|S (CKbb:8 6.9200 0.8650)
*|S (CKbb:11 7.2800 1.1050)
*|S (CKbb:12 6.8900 1.2200)
C75 Mmp21:d VSS 1.14596e-16
C76 Mmp25:g VSS 3.63585e-17
C77 Mmp53:g VSS 5.4599e-17
C78 Mmn21:d VSS 9.38674e-17
C79 Mmn36:g VSS 4.61339e-17
C80 Mmn40:g VSS 2.70528e-17
C81 CKbb:12 VSS 1.36632e-16
C82 CKbb:2 VSS 6.31857e-17
C83 CKbb:4 VSS 2.39762e-16
C84 CKbb:6 VSS 3.21107e-16
C85 CKbb:8 VSS 1.02994e-16
Rl69 CKbb:2 CKbb:4 198.771454 $W=0.039
Rl70 Mmn40:g CKbb:2 32.373806 $W=0.039
Rl71 Mmn36:g CKbb:6 115.386673 $W=0.039
Rl72 CKbb:2 Mmp53:g 164.928162 $W=0.039
Rl73 Mmp25:g CKbb:8 74.537926 $W=0.039
Rk74 CKbb:6 CKbb:4 1.517445 $W=0.08
Rk75 CKbb:12 CKbb:8 0.248694 $W=0.08
Rk76 CKbb:12 CKbb:6 0.658924 $W=0.08
Rk77 CKbb:11 CKbb:12 0.391678 $W=0.08
Rk78 Mmn21:d CKbb:11 75.499825 $W=0.08
Rk79 Mmp21:d CKbb:11 62.000000 $W=0.08
*
*|NET net469 1.42254e-16
*|I (Mmn31:s Mmn31 s X 0 5.5100 0.4075)
*|I (Mmn32:s Mmn32 s X 0 5.9775 0.4075)
C86 Mmn32:s VSS 6.3493e-17
C87 Mmn31:s VSS 7.87615e-17
Rk80 Mmn32:s Mmn31:s 150.337601 $W=0.0635
*
*|NET n20 5.07875e-16
*|I (Mmn32:g Mmn32 g X 0 5.8725 0.4075)
*|I (Mmn36:d Mmn36 d X 0 6.6450 0.4075)
*|I (Mmp32:g Mmp32 g X 0 5.7075 1.0550)
*|I (Mmp36:d Mmp36 d X 0 6.8750 1.1300)
*|S (n20:2 5.8725 0.6100)
*|S (n20:4 5.9400 0.6100)
*|S (n20:6 6.6050 0.5700)
C88 Mmp36:d VSS 9.22331e-17
C89 Mmp32:g VSS 9.84322e-17
C90 Mmn36:d VSS 1.99873e-17
C91 Mmn32:g VSS 3.08633e-17
C92 n20:6 VSS 1.07738e-16
C93 n20:2 VSS 3.9342e-17
C94 n20:4 VSS 1.19279e-16
Rl81 n20:2 n20:4 51.601101 $W=0.094
Rl82 Mmn32:g n20:2 23.740160 $W=0.039
Rl83 n20:2 Mmp32:g 156.077606 $W=0.039
Rk84 n20:6 n20:4 0.528107 $W=0.08
Rk85 n20:6 Mmn36:d 75.065125 $W=0.1
Rk86 Mmp36:d n20:6 62.471214 $W=0.08
*
*|NET net514 0
*|I (Mmn35:d Mmn35 d X 0 6.4300 0.4075)
*|I (Mmn36:s Mmn36 s X 0 6.4300 0.4075)
Rmw87 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET Db 6.69464e-16
*|I (Mmn25:d Mmn25 d X 0 6.8800 0.4075)
*|I (Mmn12:d Mmn12 d X 0 8.7000 0.3950)
*|I (Mmp25:s Mmp25 s X 0 7.0550 1.1300)
*|I (Mmp12:d Mmp12 d X 0 8.4900 1.1450)
*|S (Db:2 8.2700 0.3325)
*|S (Db:4 6.8900 0.3650)
C95 Mmp12:d VSS 1.21801e-16
C96 Mmp25:s VSS 1.02615e-16
C97 Mmn12:d VSS 4.43461e-17
C98 Mmn25:d VSS 1.89096e-16
C99 Db:2 VSS 2.11605e-16
Rk88 Db:2 Db:4 1.015572 $W=0.08
Rk89 Mmn25:d Db:4 75.000000 $W=0.08
Rk90 Db:2 Mmn12:d 75.179634 $W=0.112
Rk91 Db:4 Mmp25:s 62.633446 $W=0.08
Rk92 Mmp12:d Db:2 21.380844 $W=0.09
*
*|NET net522 2.73138e-18
*|I (Mmn11:d Mmn11 d X 0 8.3825 0.4200)
*|I (Mmn12:s Mmn12 s X 0 8.3825 0.4200)
C100 Mmn11:d VSS 2.73138e-18
Rmw93 Mmn12:s Mmn11:d 0.001000 $W=1
*
*|NET SEb 4.8505e-16
*|I (Mmn12:g Mmn12 g X 0 8.4825 0.4200)
*|I (Mmn10:d Mmn10 d X 0 9.3550 0.4525)
*|I (Mmp14:g Mmp14 g X 0 8.5925 1.1450)
*|I (Mmp10:d Mmp10 d X 0 9.0600 1.2325)
*|S (SEb:2 8.6200 0.8500)
*|S (SEb:5 9.4700 1.0900)
C101 Mmp10:d VSS 2.79066e-17
C102 Mmp14:g VSS 4.72275e-17
C103 Mmn10:d VSS 6.51732e-17
C104 Mmn12:g VSS 7.70485e-17
C105 SEb:5 VSS 9.46081e-17
C106 SEb:2 VSS 1.73086e-16
Rl94 SEb:2 Mmn12:g 121.875404 $W=0.039
Rl95 Mmp14:g SEb:2 24.232828 $W=0.039
Rk96 SEb:5 SEb:2 45.771152 $W=0.08
Rk97 Mmn10:d SEb:5 75.503403 $W=0.09
Rk98 SEb:5 Mmp10:d 62.415230 $W=0.09
*
*|NET net534 0
*|I (Mmn14:s Mmn14 s X 0 8.8250 0.3950)
*|I (Mmn13:d Mmn13 d X 0 8.8250 0.3950)
Rmw99 Mmn13:d Mmn14:s 0.001000 $W=1
*
*|NET net394 1.95496e-16
*|I (Mmp50:d Mmp50 d X 0 3.2250 1.1350)
*|I (Mmp53:s Mmp53 s X 0 3.9975 1.0800)
C107 Mmp53:s VSS 1.03709e-16
C108 Mmp50:d VSS 9.17869e-17
Rk100 Mmp53:s Mmp50:d 124.493721 $W=0.08
*
*|NET net437 1.85622e-18
*|I (Mmp52:s Mmp52 s X 0 3.4200 1.1350)
*|I (Mmp51:d Mmp51 d X 0 3.4200 1.1350)
C109 Mmp52:s VSS 1.85622e-18
Rmw101 Mmp51:d Mmp52:s 0.001000 $W=1
*
*|NET net417 2.55223e-18
*|I (Mmp31:d Mmp31 d X 0 5.6550 1.0550)
*|I (Mmp32:s Mmp32 s X 0 5.6550 1.0550)
C110 Mmp31:d VSS 2.55223e-18
Rmw102 Mmp32:s Mmp31:d 0.001000 $W=1
*
*|NET net425 3.3732e-18
*|I (Mmp35:d Mmp35 d X 0 6.4775 1.1550)
*|I (Mmp36:s Mmp36 s X 0 6.4775 1.1550)
C111 Mmp35:d VSS 3.3732e-18
Rmw103 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET net445 2.58747e-18
*|I (Mmp11:d Mmp11 d X 0 8.3350 1.1450)
*|I (Mmp12:s Mmp12 s X 0 8.3350 1.1450)
C112 Mmp11:d VSS 2.58747e-18
Rmw104 Mmp12:s Mmp11:d 0.001000 $W=1
*
*|NET net453 4.5356e-18
*|I (Mmp14:s Mmp14 s X 0 8.6775 1.1450)
*|I (Mmp13:d Mmp13 d X 0 8.6775 1.1450)
C113 Mmp14:s VSS 4.5356e-18
Rmw105 Mmp13:d Mmp14:s 0.001000 $W=1
*
*Instance Section
*
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02755P	AS=0.04297P	PD=0.67U	PS=0.92U
+ fw=1.45e-07 sa=1.9e-07 sb=9.3e-07 sca=13.9854 scb=0.014728 scc=0.000819645
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0492P	AS=0.04297P	PD=0.89U	PS=0.92U
+ fw=2.05e-07 sa=3.75854e-07 sb=6.3e-07 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn52	Mmn52:d	Mmn52:g	Mmn50:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0492P	PD=0.73U	PS=0.89U
+ fw=2.05e-07 sa=6.60854e-07 sb=3.45e-07 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn51	Mmn52:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0287P	PD=0.73U	PS=0.69U
+ fw=2.05e-07 sa=8.65854e-07 sb=1.4e-07 sca=13.4389 scb=0.0137383 scc=0.000784938
Mmn53	Mmn53:d	Mmn53:g	Mmn53:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05125P	AS=0.04612P	PD=0.91U	PS=0.86U
+ fw=2.05e-07 sa=2.25e-07 sb=5.8e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn40	Mmn53:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05125P	AS=0.05842P	PD=0.91U	PS=0.98U
+ fw=2.05e-07 sa=5.2e-07 sb=2.85e-07 sca=10.7727 scb=0.0101457 scc=0.000373012
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04612P	AS=0.0287P	PD=0.86U	PS=0.69U
+ fw=2.05e-07 sa=1.4e-07 sb=1.325e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn32	Mmn31:d	Mmn32:g	Mmn32:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04612P	AS=0.03382P	PD=0.86U	PS=0.74U
+ fw=2.05e-07 sa=4.1e-07 sb=1.055e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn30	Mmn32:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03382P	AS=0.04715P	PD=0.74U	PS=0.87U
+ fw=2.05e-07 sa=6.2e-07 sb=8.45e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0205P	AS=0.04715P	PD=0.61U	PS=0.87U
+ fw=2.05e-07 sa=8.95e-07 sb=5.7e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0492P	AS=0.0205P	PD=0.89U	PS=0.61U
+ fw=2.05e-07 sa=1.04e-06 sb=4.25e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn25	Mmn25:d	Mmn25:g	Mmn36:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.0492P	PD=0.69U	PS=0.89U
+ fw=2.05e-07 sa=1.325e-06 sb=1.4e-07 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.06185P	PD=0.57U	PS=1.25U
+ fw=1.45e-07 sa=1.4e-07 sb=1.7e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.08535P	PD=0.57U	PS=1.5U
+ fw=1.45e-07 sa=1.4e-07 sb=1.30362e-06 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn11	Mmn11:d	Mmn11:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0403P	AS=0.08535P	PD=0.83U	PS=1.5U
+ fw=2.6e-07 sa=3.34519e-07 sb=8.94038e-07 sca=9.69565 scb=0.00844644 scc=0.000275168
Mmn12	Mmn12:d	Mmn12:g	Mmn12:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.06257P	AS=0.0403P	PD=1.06U	PS=0.83U
+ fw=2.6e-07 sa=5.34519e-07 sb=6.94038e-07 sca=9.69565 scb=0.00844644 scc=0.000275168
Mmn14	Mmn12:d	Mmn14:g	Mmn14:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.06257P	AS=0.0156P	PD=1.06U	PS=0.64U
+ fw=2.6e-07 sa=7.42308e-07 sb=4.42019e-07 sca=8.81533 scb=0.00706435 scc=0.000179997
Mmn13	Mmn13:d	Mmn13:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0608P	PD=0.64U	PS=1.2U
+ fw=2.6e-07 sa=8.47308e-07 sb=3.37019e-07 sca=8.81533 scb=0.00706435 scc=0.000179997
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0608P	PD=0.57U	PS=1.2U
+ fw=1.45e-07 sa=1.39414e-06 sb=1.4e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn55	Q	Mmn55:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.295U
+ AD=0.04636P	AS=0.0469P	PD=0.90429U	PS=0.91U	M=7
+ fw=2.95e-07 sa=1.4e-07 sb=1.92051e-06 sca=16.4223 scb=0.0158966 scc=0.0014413
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0481P	AS=0.04623P	PD=0.89U	PS=0.89U	M=3
+ fw=2.6e-07 sa=1.575e-06 sb=6.65e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmp22	Mmp22:d	Mmp22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0857P	PD=0.71U	PS=1.32U
+ fw=2.15e-07 sa=1.4e-07 sb=9.85e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0744P	AS=0.0857P	PD=1.1U	PS=1.32U
+ fw=3.1e-07 sa=3.67984e-07 sb=6.85e-07 sca=17.3904 scb=0.0162056 scc=0.00137566
Mmp52	Mmp50:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0744P	AS=0.0186P	PD=1.1U	PS=0.74U
+ fw=3.1e-07 sa=6.52984e-07 sb=4e-07 sca=17.3904 scb=0.0162056 scc=0.00137566
Mmp51	Mmp51:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.10045P	PD=0.74U	PS=1.36U
+ fw=3.1e-07 sa=7.57984e-07 sb=2.95e-07 sca=17.3904 scb=0.0162056 scc=0.00137566
Mmp53	Mmp53:d	Mmp53:g	Mmp53:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.07905P	PD=1U	PS=1.13U
+ fw=3.1e-07 sa=2.55e-07 sb=4.6e-07 sca=26.7199 scb=0.0211429 scc=0.00304348
Mmp40	Mmp53:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.06975P	PD=1U	PS=1.07U
+ fw=3.1e-07 sa=4.9e-07 sb=2.25e-07 sca=26.7199 scb=0.0211429 scc=0.00304348
Mmp31	Mmp31:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.1946P	PD=0.74U	PS=2.09U
+ fw=3.1e-07 sa=5.6e-07 sb=1.17952e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp32	Mmp32:d	Mmp32:g	Mmp32:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.0186P	PD=1.07U	PS=0.74U
+ fw=3.1e-07 sa=6.65e-07 sb=1.07452e-06 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp30	Mmp32:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.10385P	PD=1.07U	PS=1.49U
+ fw=3.1e-07 sa=9.35e-07 sb=8.04516e-07 sca=35.6995 scb=0.0234062 scc=0.00420468
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06045P	AS=0.10385P	PD=1.01U	PS=1.49U
+ fw=3.1e-07 sa=9.66613e-07 sb=7.26129e-07 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.09193P	AS=0.06045P	PD=1.28U	PS=1.01U
+ fw=3.1e-07 sa=1.20661e-06 sb=4.86129e-07 sca=15.5687 scb=0.0146164 scc=0.00101158
Mmp25	Mmp36:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.09193P	AS=0.0527P	PD=1.28U	PS=0.96U
+ fw=3.1e-07 sa=1.49815e-06 sb=1.7e-07 sca=17.9343 scb=0.0166254 scc=0.0014837
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.05053P	PD=0.75U	PS=0.9U
+ fw=2.15e-07 sa=1.6e-07 sb=2.35e-07 sca=14.2498 scb=0.0138057 scc=0.00069487
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.07125P	PD=0.71U	PS=1.28U
+ fw=2.15e-07 sa=1.4e-07 sb=9.20581e-07 sca=25.9192 scb=0.0230503 scc=0.00301683
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.07125P	PD=0.9U	PS=1.28U
+ fw=3.9e-07 sa=2.84679e-07 sb=7.15064e-07 sca=19.0259 scb=0.0163587 scc=0.00171562
Mmp12	Mmp12:d	Mmp12:g	Mmp12:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=3.89679e-07 sb=6.10064e-07 sca=19.0259 scb=0.0163587 scc=0.00171562
Mmp14	Mmp12:d	Mmp14:g	Mmp14:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.04875P	PD=1.1U	PS=1.03U
+ fw=3.9e-07 sa=5.94679e-07 sb=4.05064e-07 sca=19.0259 scb=0.0163587 scc=0.00171562
Mmp13	Mmp13:d	Mmp13:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.04875P	AS=0.0519P	PD=1.03U	PS=1.1U
+ fw=3.9e-07 sa=7.64679e-07 sb=2.35064e-07 sca=19.3112 scb=0.0164357 scc=0.00171563
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0519P	PD=0.71U	PS=1.1U
+ fw=2.15e-07 sa=8.47326e-07 sb=1.4e-07 sca=12.2443 scb=0.00977105 scc=0.000188654
Mmp55@1	Q	Mmn55:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.445U
+ AD=0.06993P	AS=0.07073P	PD=1.20429U	PS=1.21U	M=7
+ fw=4.45e-07 sa=1.4e-07 sb=1.90404e-06 sca=40.5428 scb=0.0363846 scc=0.00414682
Mmp45@1	Mmn45@1:d	Mmn45@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0598P	AS=0.06423P	PD=1.08667U	PS=1.13667U	M=3
+ fw=3.9e-07 sa=1.575e-06 sb=5.5e-07 sca=18.3796 scb=0.0159892 scc=0.00159615
.ENDS
.END
